US07893056B2
To a degassed solution of (rac)-cis-1,1,2-trimethyl-5-(phenylmethyl)octahydropyrrolo[3,4-c]pyrrole (1.44 g, 6 mmol) in MeOH (30 mL) was added 1 M HCl (12.3 mL, 12 mmol) followed by 10% Pd/C (220 mg). The resulting mixture was stirred overnight under a hydrogen balloon. Filtration of the catalyst and evaporation of the solvents in vacuo yielded (rac)-cis-1,1,2-trimethyloctahydropyrrolo[3,4-c]pyrrole in quantitative yield as a hydrochloride salt. LCMS: (M+H)+: 155.1.

reactant | (rac)-cis-1,1,2-trimethyl-5-(phenylmethyl)octahydropyrrolo[3,4-c]pyrrole | 6 mmol, 1.44 g | CC1(N(C[C@@H]2[C@H]1CN(C2)CC2=CC=CC=C2)C)C | C16H24N2
reactant | HCl | 12 mmol, 1 M, 12.3 mL | Cl | ClH
solvent | MeOH | 30 mL | CO | CH4O
catalyst | Pd/C | 220 mg | [Pd] | Pd
product | (rac)-cis-1,1,2-trimethyloctahydropyrrolo[3,4-c]pyrrole | quantitative yield | CC1(N(C[C@@H]2[C@H]1CNC2)C)C | C9H18N2
